US04067723
A solution of 3-chloro-6-(2-methylbenzyl)pyridazine (34 g.) in ethanol (370 ml.) containing aqueous ammonium hydroxide solution (s.g. 0.880; 38 ml.) was treated with hydrogen in the presence of palladium on charcoal (5% Pd) at ambient temperature and normal atmospheric pressure for 1.5 hours. After filtration, the filtrate was evaporated to dryness and the residue extracted with chloroform (3 × 100 ml.). The chloroform solution was washed with water, dried over magnesium sulphate and evaporated to dryness. The light brown solid thus obtained was triturated with n-hexane to give 3-(2-methylbenzyl)pyridazine (26 g.), m.p. 88°-89° C.

reactant | 3-chloro-6-(2-methylbenzyl)pyridazine | 34 g | ClC=1N=NC(=CC1)CC1=C(C=CC=C1)C | C12H11ClN2
reactant | ammonium hydroxide | 38 ml | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 370 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-(2-methylbenzyl)pyridazine | 26 g | CC1=C(CC=2N=NC=CC2)C=CC=C1 | C12H12N2
